US07638521B2
0.504 g (12 mmol) of lithium hydroxide monohydrate and 20 cm3 of water are added to 1.3 g (3.91 mmol) of 3-methoxycarbonyl-1-(7-methoxyquinol-4-yl)-1H-indole dissolved in 20 cm3 of tetrahydrofuran. After stirring at reflux for 20 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in 30 cm3 of water (pH=10). The resulting aqueous solution is washed with 50 cm3 of ethyl acetate and adjusted to pH 6 with N hydrochloric acid. The resulting precipitate is filtered off and then it is rinsed with three times 20 cm3 of water and twice 20 cm3 of isopropyl ether and dried under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. to give 0.9 g of 3-carboxy-1-(7-methoxyquinol-4-yl)-1H-indole in the form of a white powder. Mass spectrum (EI): m/e 318 (M+•).

reactant | lithium hydroxide monohydrate | 12 mmol, 0.504 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-1-(7-methoxyquinol-4-yl)-1H-indole | 3.91 mmol, 1.3 g | COC(=O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)OC | C20H16N2O3
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | water | 30 cm3, pH=10 | O | H2O
solvent | water | 20 cm3 | O | H2O
product | 3-carboxy-1-(7-methoxyquinol-4-yl)-1H-indole | 0.9 g | C(=O)(O)C1=CN(C2=CC=CC=C12)C1=CC=NC2=CC(=CC=C12)OC | C19H14N2O3
